US07598257B2
Step 2. 4-[3-Methyl-4-(piperidin-1-ylcarbonyl)-1H-pyrazol-1-yl]-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine
A solution of 3-methyl-1-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazole-4-carboxylic acid (0.040 g, 0.00011 mol) (1:1 of AcOH) and N,N-carbonyldiimidazole (0.035 g, 0.00021 mol) in THF (1 mL, 0.01 mol) was stirred for 1.2 h, after which time piperidine (32 μL, 0.00032 mol) was added. After another 2 h, another portion of piperidine (15 μL) was added and the resulting mixture was stirred overnight. The reaction mixture was then partitioned between ethyl acetate and water, and washed sequentially with sat. NaHCO3 and brine. The organic phase was dried and evaporated to give 49 mg of the crude product as an orange oil/glass. The crude product was chromatographed with 75-100% ethyl acetate/hexanes, sample in DCM. Collected 25 mg of the purified product as a colorless glass/oil (50% yield).

reactant | 3-methyl-1-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazole-4-carboxylic acid | 0.00011 mol, 0.040 g | CC1=NN(C=C1C(=O)O)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C18H24N4O3Si
reactant | N,N-carbonyldiimidazole | 0.00021 mol, 0.035 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | THF | 0.01 mol, 1 mL | C1CCOC1 | C4H8O
reactant | piperidine | 0.00032 mol, 32 μL | N1CCCCC1 | C5H11N
reactant | piperidine | 15 μL | N1CCCCC1 | C5H11N
product | 4-[3-Methyl-4-(piperidin-1-ylcarbonyl)-1H-pyrazol-1-yl]-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 49 mg | CC1=NN(C=C1C(=O)N1CCCCC1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C23H33N5O2Si
